*model for MAX40200
*version 1.1: 5/2019 
.SUBCKT MAX40203 VDD GND OUT EN
Dm vdd1 out1 DA
Gag vdd1 gnd value={350n*V(sd1)*V(sd2)+150n*(1-V(sd1))}
Gag1 vd gnd value={I(Vo2)*(V(sd2)-1)}
Vvd vd 0 5
.MODEL DA D(N=10m RS=0.02 IBV=1e-7 BV=8 IS=20p VJ=0.5)
S_1 vdd vdd1 SD1 0 smod1
.model smod1 VSWITCH (Ron=0.1 Roff=10meg Von=0.8 Voff=0.5)
Eflg flg 0 value={if(V(vdd)>V(ot),5,0)}
Eot ot 0 value={V(out)-20m}
X_1 0 EN1 sd1 shdn
Ret EN EN1 300
Cet EN1 0 2.5u
Rfa EN1 0 100
S_2 out1 out2 SD2 0 smod2
.model smod2 VSWITCH (Ron=0.1 Roff=10meg Von=0.8 Voff=0.5)
S_3 out outx SD2 0 smod3
Vo2 outx 0 0
.model smod3 VSWITCH (Ron=10g Roff=6.6meg Von=0.8 Voff=0.5)
S_4 out vdd SD2 0 smod4
.model smod4 VSWITCH (Ron=10g Roff=20meg Von=0.8 Voff=0.5)
X_2 0 flg sd2 shdn
V1 out2 out 0m
.ends
**************************************************************************************
.SUBCKT SHDN 18 91 cs
**************************************************************************************
V10 10 0 5
E20 20 18 10 18 0.5
Ecs cs 18 VALUE={V(96)-V(20)}
*SHUTDOWN
RSHIN 91 20 5000K
ESH3 220 20 91 18 1
RSHA 220 221 1K
CSHA 221 20 32P
ESH2 92 20 221 20 1
RSH1 92 93 100
VSH1 93 94 0V
EHYS 95 94 POLY(2) 10 18 96 20 0 0 0 0 0.03
RBL 94 20 10K  
ESH1 95 20 10 18 0.11
****
*FSH1 20 96 Vsh1 1
*CSH1 96 20 10P
*DSH2 20 96 DA
*DSH1 96 97 DA
*VSH2 97 20 1V
*RSH2 96 20 100K
E96 96 18 value={if(I(vsh1)<0,2.5,3.5)}
.MODEL DA D(N=10M)
*.MODEL DA D
.ends
**************************************************************************************